US07777047B2
7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid
A mixture of ethyl 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate (2.19 g), 1N aqueous sodium hydroxide solution (10 mL), tetrahydrofuran (10 mL) and ethanol (10 mL) was stirred at room temperature for 15 hr. The reaction mixture was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was washed with hexane to give the title compound (2.05 g, yield 100%) as colorless crystals.

reactant | ethyl 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 2.19 g | CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C17H15F3N2O5S2
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid | 2.05 g, yield 100% | CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C15H11F3N2O5S2
